US04511731
A solution of 10 g methyl 2-(4-(1-methylethenyl)phenoxy)propanoate, 1.2 equivalents 30% aqueous H2O2 in 30 ml acetone, and 0.1 equivalent 98% H2SO4 was refluxed for about 2 hours. Workup gave a 57% yield of methyl 2-(4-hydroxyphenoxy)propanoate.

reactant | methyl 2-(4-(1-methylethenyl)phenoxy)propanoate | 10 g | CC(=C)C1=CC=C(OC(C(=O)OC)C)C=C1 | C13H16O3
reactant | H2O2 | 1.2 equivalents | OO | H2O2
reactant | H2SO4 | 0.1 equivalent | OS(=O)(=O)O | H2O4S
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | methyl 2-(4-hydroxyphenoxy)propanoate | 57% yield | OC1=CC=C(OC(C(=O)OC)C)C=C1 | C10H12O4
